US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-{3-methyl-3-[(triethylsilyl)oxy]butyl}-2-thienyl)-1H-indole-7-carboxamide
5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (90 mg, 0.24 mmol), ({1,1-dimethyl-3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl]propyl}oxy)(triethyl)silane (149 mg, 0.36 mmol, 1.5 eq), potassium carbonate (200 mg, 1.4 mmol, 6 eq), and palladium tetrakistriphenylphosphine (28 mg, 0.024 mmol, 0.1 eq) were diluted in dioxane (1.5 mL) and water (0.5 mL) in a 2-5 mL microwave vial. The mixture was degassed by bubbling argon through for 5 minutes, then heated in a microwave oven at 150° C. under high absorption for 40 minutes. The mixture was filtered through a thiol SPE cartridge, then concentrated to give the crude product as a brown oil. This material was purified by Isco Combiflash, 40 gram column, eluting with 0-15% methanol in dichloromethane. The desired product was obtained as a brownish tarry substance and was re-purified by ammonium hydroxide Gilson eluting with 20-95% acetonitrile in water. The product fractions were concentrated in a Genevac EZ2 evaporator to give the title compound as a light yellow solid (55 mg, 40%).

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.24 mmol, 90 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C14H15BrN2O3S
reactant | ({1,1-dimethyl-3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl]propyl}oxy)(triethyl)silane | 0.36 mmol, 149 mg, 1.5 eq | CC(CCC=1SC(=CC1)B1OC(C(O1)(C)C)(C)C)(C)O[Si](CC)(CC)CC | C21H39BO3SSi
reactant | potassium carbonate | 1.4 mmol, 200 mg, 6 eq | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.5 mL | O | H2O
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-{3-methyl-3-[(triethylsilyl)oxy]butyl}-2-thienyl)-1H-indole-7-carboxamide | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC(=CC1)CCC(C)(O[Si](CC)(CC)CC)C)C(=O)N)=O | C29H42N2O4S2Si
